US06331640B1
An aqueous solution of sodium hydroxide (1 M; 0.123 mL, 0.123 mmol) was added to a solution of N-[2-chloro 4-[[[[3-[(3,5-difluorobenzoyl)oxy]phenyl]methyl]amino]carbonyl]-6-methylbenzoyl]-3-[(3,5-difluorobenzoyl)amino]-L-alanine, methyl ester (43 mg, 0.0614 mmol) in methanol (1 mL). The solution was allowed to stir overnight and then concentrated. The residue was purified by HPLC and lyophilized to give N-[2-chloro-4-[[[(3-hydroxyphenyl)methyl]amino]carbonyl]-6-methylbenzoyl]-3-[(3,5-difluorobenzoyl)amino]-L-alanine (14.6 mg, 43%) as a white solid.

reactant | sodium hydroxide | 0.123 mmol, 1 M, 0.123 mL | [OH-].[Na+]
reactant | N-[2-chloro 4-[[[[3-[(3,5-difluorobenzoyl)oxy]phenyl]methyl]amino]carbonyl]-6-methylbenzoyl]-3-[(3,5-difluorobenzoyl)amino]-L-alanine, methyl ester | 0.0614 mmol, 43 mg | ClC1=C(C(=O)N[C@@H](CNC(C2=CC(=CC(=C2)F)F)=O)C(=O)OC)C(=CC(=C1)C(=O)NCC1=CC(=CC=C1)OC(C1=CC(=CC(=C1)F)F)=O)C | C34H26ClF4N3O7
solvent | methanol | 1 mL | CO | CH4O
product | N-[2-chloro-4-[[[(3-hydroxyphenyl)methyl]amino]carbonyl]-6-methylbenzoyl]-3-[(3,5-difluorobenzoyl)amino]-L-alanine | 14.6 mg, 43% | ClC1=C(C(=O)N[C@@H](CNC(C2=CC(=CC(=C2)F)F)=O)C(=O)O)C(=CC(=C1)C(=O)NCC1=CC(=CC=C1)O)C | C26H22ClF2N3O6
